US08217060B2
Step A: (E)-N-(4-Bromo-2-nitro-phenyl)-3-(tetrahydro-pyran-4-yl)-acrylamide
Following the procedure as described in Example 3, STEP B, the title compound was prepared from 4-bromo-2-nitro-phenylamine (2.06 g, 9.47 mmol) and (E)-3-(tetrahydro-pyran-4-yl)-acrylic acid (prepared as described in PCT Publication WO 2005/101989 (A2,A3), 1.14 g, 7.29 mmol) and was obtained as a yellow solid.

reactant | 4-bromo-2-nitro-phenylamine | 9.47 mmol, 2.06 g | BrC1=CC(=C(C=C1)N)[N+](=O)[O-] | C6H5BrN2O2
reactant | (E)-3-(tetrahydro-pyran-4-yl)-acrylic acid | 7.29 mmol, 1.14 g | O1CCC(CC1)/C=C/C(=O)O | C8H12O3
product | (E)-N-(4-Bromo-2-nitro-phenyl)-3-(tetrahydro-pyran-4-yl)-acrylamide | BrC1=CC(=C(C=C1)NC(\C=C\C1CCOCC1)=O)[N+](=O)[O-] | C14H15BrN2O4
